US08039463B2
HOBt (48 mg, 0.35 mmol) and DMAP (54 mg, 0.44 mmol) were added to a stirred solution of 3-oxo-3-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-propionic acid (100 mg, 0.29 mmol) in DMF (2 mL). The reaction mixture was cooled to 10° C. and EDCI.HCl (67 mg, 0.35 mmol) followed by 6-phenyl-pyridin-3-ylamine (50 mg, 0.29 mmol) were added. The reaction mixture was stirred at the room temperature overnight then diluted with water and the product extracted with ethyl acetate. The organic layer was washed with brine solution, dried over Na2SO4 and concentrated. The residue was purified by column chromatography using silica gel 60-120 mesh (60% ethyl acetate in hexane) to afford 36 mg (25%) of 3-oxo-N-(6-phenyl-pyridin-3-yl)-3-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-propionamide. LCMS: 497.16 (M+1)+, 97.8%, 1H NMR: (CDCl3): δ 10.0 (d, 1H), 8.7 (d, 1H), 8.2 (dd, 1H), 8.0 (d, 2H), 7.7 (m, 4H), 7.4 (m, 4H), 4.03 (m, 2H), 3.7 (m, 3H), 3.54 (m, 3H), 3.23 (m. 2H).

reactant | HOBt | 0.35 mmol, 48 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 3-oxo-3-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-propionic acid | 0.29 mmol, 100 mg | O=C(CC(=O)O)N1CCN(CC1)C(C1=C(C=CC=C1)C(F)(F)F)=O | C15H15F3N2O4
reactant | EDCI.HCl | 0.35 mmol, 67 mg | CCN=C=NCCCN(C)C.Cl
reactant | 6-phenyl-pyridin-3-ylamine | 0.29 mmol, 50 mg | C1(=CC=CC=C1)C1=CC=C(C=N1)N | C11H10N2
catalyst | DMAP | 0.44 mmol, 54 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 3-oxo-N-(6-phenyl-pyridin-3-yl)-3-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-propionamide | 36 mg, 25% | O=C(CC(=O)NC=1C=NC(=CC1)C1=CC=CC=C1)N1CCN(CC1)C(C1=C(C=CC=C1)C(F)(F)F)=O | C26H23F3N4O3
